US05827849
a) 2-Chloro-7-benzyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine
Prepared by reacting 2-hydroxy-7-benzyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine dihydrochloride with phosphorus oxychloride at 140° C.

reactant | 2-hydroxy-7-benzyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine dihydrochloride | Cl.Cl.OC=1C=CC2=C(CCN(CC2)CC2=CC=CC=C2)N1
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-7-benzyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | ClC=1C=CC2=C(CCN(CC2)CC2=CC=CC=C2)N1 | C16H17ClN2
